US04393217
As for Example 1, 2'-chloro-2-cyano-4'-fluoroacetanilide as colorless needles, m.p. 138°-139° C. (prepared by the procedure described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylformamide dimethylacetal to give 2'-chloro-2-cyano-3-dimethylamino-4'-fluoroacrylanilide as colorless needles, m.p. 155.5°-156.5° C.

reactant | 2'-chloro-2-cyano-4'-fluoroacetanilide | ClC1=C(NC(CC#N)=O)C=CC(=C1)F | C9H6ClFN2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2'-chloro-2-cyano-3-dimethylamino-4'-fluoroacrylanilide | ClC1=C(NC(C(=CN(C)C)C#N)=O)C=CC(=C1)F | C12H11ClFN3O
